Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
presented to urgent care s/p head strike with headache, nausea, 
abdominal pain, diarrhea --> sent to BI ED due to c/f 
AMS/slurred speech
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ h/x glaucoma, HTN, transferred from ___ for AMS. Pt reports
that ___ she was taking a nap on the couch after a hard
workout and was sleeping deeply. She had a dream that a train 
was
about to hit her and she rolled over to get out of the way,
unfortunately she rolled into the coffee table and hit her 
cheek.
This morning she had a headache, n/v and went to ___ 
___.
At ___ and noted to have AMS but with normal neuro exam and head
CT, transferred to ___ for further management. Noted to be
blind in right eye at baseline. 

In the ED, initial vitals:  97.6, HR 65, BP 125/76, RR 22 99% RA
- Exam notable for:  
AxOx3 but recounts inconsistent history. Appears very
uncomfortable. 
Normal neuro exam, Right eye proptosis, erythema, what appears 
to
be a corneal ulcer. Epigastric TTP, non peritonitic EOMs full.
Pupil unable to be assessed ___ glaucoma. 

- Labs notable for:  
140 | 103 | 10 /                   \ 14.3 /
-----------   153             6.8   ---  265 
4.1 | 25 | 0.8 \                    / 42.7  \

Ca | Mg |Phos
___ 11.9 |PTT 23.9 | INR 1.1
AST 21| ALT 23| AlkP 82|Tbili 0.6| Alb 3.9 |Lipase 16
Neg Utox, serum 
Trop <0.01
Lactate 2.9
Flu A/B neg

- Imaging notable for:  
CT head:IMPRESSION: Motion limited study.  no acute intracranial
abnormalities are identified.
 
CXR: IMPRESSION: Opacification adjacent to the right hilum is
concerning for possible early developing pneumonia.

CTA/P: 
IMPRESSION:
1. Slight thickening of the urinary bladder wall may be
exaggerated in the
setting of underdistention, however cannot completely rule out
acute cystitis. Recommend correlation with urinalysis.
2. The cervix has a slightly heterogeneous appearance, which is
nonspecific. This may be further evaluated with direct
inspection.
3. Indeterminate 8 mm soft tissue density in the left breast.
Recommend correlation with mammography.
4. Otherwise no acute intra-abdominal or intrapelvic process.

- Pt given:  
___ 17:02IVFNS1L
___ 17:02IVLORazepam 0.5 mg
___ 18:18IVCefTRIAXone1gm
___ 19:05IVAzithromycin500mg
___ 20:14IVFNS 1L

- Consults: Optho
- Vitals prior to transfer:  98.4, HR 78, BP 147/67, RR18 99% RA

Upon arrival to the floor, the patient reports that she feels
better. Was surprised that she has a PNA bc she denies cough,
change in sputum, or SOB. Reports that at baseline she is a very
active person and does regular exercise. She lives alone and is
able to complete all of her ADLs/IADLs. No sick contacts. Denies
difficulty with concentration or confusion. No fever, chills,
SOB, CP, changes in urinary or BM habits. 

REVIEW OF SYSTEMS:  A 10 point review of systems was performed 
in
detail and
negative except as noted in the HPI.
 
Past Medical History:
GLAUCOMA
VITAMIN D DEFICIENCY
OBESITY
___
MEDICAL NON-COMPLIANCE
HYPERTENSION
H/O BACK PAIN
H/O HYPERTENSION 
 
Social History:
___
Family History:
MotherSTROKE, HYPERTENSION
FatherUNKNOWN
SisterDEPRESSION
SisterLUNG CANCER
BrotherPROSTATE CANCER
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS:  ___ 2315 Temp: 99.5 PO BP: 129/75 L Lying HR: 62 
RR: 18 O2 sat: 95% O2 delivery: Ra 
General: Alert, oriented, no acute distress
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, Right eye 
proptosis, erythema, neck supple, negative brudzinski, kernig.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: obese, Soft, non-tender, non-distended, bowel sounds 
present, no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, AOx3. 

PHYSICAL EXAM:  
VITALS:  24 HR Data (last updated ___ @ 718)
    Temp: 98.5 (Tm 100), BP: 138/64 (128-138/64-79), HR: 55
(55-71), RR: 18 (___), O2 sat: 94% (94-95), O2 delivery: Ra  
General: Alert, oriented, no acute distress other than really 
wanting to go home
HEENT: Sclerae anicteric, EOMI, Right eye proptosis, erythema
remainder of exam is unchanged from admission 
 

 
Pertinent Results:
CBC, chemistry, LFTs, coags,  lipase, troponin - all within 
normal limits
BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG Tricycl-NEG

URINE Color-Straw Appear-Hazy* Sp ___

URINE Blood-NEG Nitrite-NEG Protein-TR* Glucose-NEG Ketone-NEG 
Bilirub-NEG Urobiln-NEG pH-8.5* Leuks-NEG

URINE RBC-1 WBC-1 Bacteri-FEW* Yeast-NONE Epi-7 Mucous-RARE*
URINE bnzodzp-NEG barbitr-NEG opiates-NEG cocaine-NEG 
amphetm-NEG oxycodn-NEG mthdone-NEG

- Imaging notable for:  
CT head:IMPRESSION: Motion limited study.  no acute intracranial
abnormalities are identified.
 
CXR: IMPRESSION: Opacification adjacent to the right hilum is
concerning for possible early developing pneumonia.

CT AP IMPRESSION:
1. Thickened urinary bladder, may reflect infection.  Recommend 
correlation
with urinalysis.
2. The cervix has a slightly heterogeneous appearance, which is 
nonspecific. 
This may be further evaluated with direct inspection.
3. Indeterminate 8 mm soft tissue density in the left breast.  
Recommend
correlation with mammography.
4. Otherwise no acute intra-abdominal or intrapelvic process.

 
Brief Hospital Course:
___ was in her usual state of health at home and hit her right 
cheek/eye on the coffee table while sleeping during a dream. The 
following day, she developed headache, abdominal pain and nausea 
and had one episode of diarrhea, prompting her to go to urgent 
care. There, she did not have any focal neurological findings 
but did report slurred speech. CT head was unrevealing for acute 
hemorrhage though did show a well circumscribed hemorrhagic 
collection in the vitreous cavity of the right eye. This could 
represent a choroidal hemorrhage, choroidal melanoma +/- 
hemorrhage. There was also significant scleral thinning superior 
with ectasia and uveal prolapse. She was seen by ophthalmology 
who will schedule an appointment with her for either ___ 
___ or ___. 

In the setting of concern for altered mental status, an 
infectious work up was pursued. Chest XR showed a possible 
opacity and she was given one day of antibiotics; however, given 
that she had no clinical symptoms of pneumonia (i.e. fever, 
white count, or respiratory symptoms), the antibiotics were 
discontinued. 

Additionally, the patient had a CT scan of her abdomen and 
pelvis given her above symptoms. There was no acute pathology 
though two incidental findings were shown:
1. The cervix has a slightly heterogeneous appearance, which is 
nonspecific. This may be further evaluated with direct 
inspection. 
2. Indeterminate 8 mm soft tissue density in the left breast. 
Recommend correlation with mammography 

The patient's symptoms resolved and she was discharged after 
less than 24 hours of hospitalization. 

======================
Transitional issues:
======================
1. Follow up with primary care doctor in 1 week: please refer 
the patient to the ___ Concussion and ___ if she has 
any residual symptoms from her recent head injury.
2. Please see Ophthalmology Progress note from ___ for their 
plan  - Follow up with ophthalmology on either ___ or ___ (they will call her and schedule 
this appointment)
3. Recommend evaluation of cervix per CT findings - however, pap 
spear/HPV normal on ___.
4. Recommend mammography for incidental 8mm density in the left 
breast per CT findings
5. Consider further work up of ?hilar opacity with non-contrast 
chest CT if there is concern or if she develops respiratory 
symptoms. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fish Oil (Omega 3) 1000 mg PO BID 
2. ubidecarenone-omega 3-vit E ___ mg-mg-unit oral DAILY 
3. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Fish Oil (Omega 3) 1000 mg PO BID  
2.  ubidecarenone-omega 3-vit E ___ mg-mg-unit oral DAILY 
 
3.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Accidental headstrike with probable concussion
- Traumatic eye injury (diagnosis is still uncertain:  well 
circumscribed hemorrhagic collection in the vitreous cavity of 
the right eye. This could represent a choroidal hemorrhage, 
choroidal melanoma +/- hemorrhage. There is significant scleral 
thinning superior with ectasia and uveal prolapse)
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

You were admitted to ___ 
because you had a headache and a stomach ache after hitting your 
head.

What happened while I was here?
- You had a head CT which was normal
- You had a CT of your abdomen and pelvis which did not show a 
reason for your abdominal pain
- An eye doctor looked at your eye and scheduled you for a 
follow up appointment

What should I do when I go home?
- Please go to all of your appointments. You should be going to 
the eye doctor either ___ ___ or ___.
- If you develop any new symptoms such as headache, nausea, 
vomiting or anything else that concerns you, please call your 
doctor or return to the emergency room.

Sincerely,
The team at ___
 
Followup Instructions:
___